US09126993B2
2-(quinuclidin-3-yl)-N-(1-p-tolylcyclopropyl)acetamide
Using general procedure I, 2-(quinuclidin-3-yl)acetic acid (169 mg, 1.00 mmol) and 1-p-tolylcyclopropanamine (149 mg, 1.10 mmol) gave the title compound as a white solid (60 mg, 18%). 1H NMR (400 MHz, CDCl3) δ 7.86 (s, 1H), 6.96-7.07 (m, 4H), 3.22-3.37 (m, 2H), 2.85-3.05 (m, 4H), 2.39-2.45 (m, 2H), 2.21 (s, 3H), 1.45-1.92 (m, 5H), 1.07-1.23 (m, 5H) ppm. 13C NMR (400 MHz, CDCl3) δ 171.6, 139.8, 136.1, 129.2, 125.6, 52.1, 50.9, 46.5, 46.0, 39.2, 34.9, 30.8, 24.5, 21.1, 18.7, 17.6 ppm. Purity: 96.2% HPLCMS (210 nm); retention time 1.21 min; (M+1) 299.

reactant | 2-(quinuclidin-3-yl)acetic acid | 1.00 mmol, 169 mg | N12CC(C(CC1)CC2)CC(=O)O | C9H15NO2
reactant | 1-p-tolylcyclopropanamine | 1.10 mmol, 149 mg | C1(=CC=C(C=C1)C1(CC1)N)C | C10H13N
product | 2-(quinuclidin-3-yl)-N-(1-p-tolylcyclopropyl)acetamide | 60 mg, 18% | N12CC(C(CC1)CC2)CC(=O)NC2(CC2)C2=CC=C(C=C2)C | C19H26N2O
